Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Percocet / Banana / latex
 
Attending: ___.
 
Chief Complaint:
New atrial fibrillation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ w/ PMHx of HTN, HLD, PVD, COPD, history of 
colon cancer, anemia who presents from outpatient cardiology 
clinic with symptosm of dizziness and feelings of being woozy 
found to have new onset atrial fibrillation.  
The patient has been having intermittent episodes of 
palpitations with diaphoresis over the past one to 2 weeks. In 
regards to the palpitations, the patient has noticed that they 
have been increasing in frequency recently. The patient notices 
accompanying dizziness and wooziness with these symptoms. She 
reports accompanying weakness. No particular activity seems to 
bring on the symptoms as they occur at rest and with activity. 
She denies CP. She SOB at baseline ___ COPD which may have been 
getting a little worse recently. She was seen at her PCP's 
office last week for these symptoms who referred her to 
cardiology where she was found to be in new onset atrial 
fibrillation. She was sent from the cardiology office for 
admission to the cardiology service.  
Of note, the patient recently was on an flight from ___ to ___. Her daughter notes that she had swelling in the 
RLE that was worse than the LLE. The patient has noticed 
increased urinary frequency but denies dysuria or hematuria. Her 
daughter noticed that her right pupil seemed to be moving back 
and forth yesterday. The patient has noticed headache at the 
back of her head. She has a cough at baseline that is productive 
of phlegm ___ COPD that has not changed.  
In the ED, initial vitals were 0 120 100/62 18 97% RA.  
Labs: CBC notable for Hgb 11.3 with nml differential, nml coags. 
UA was remarkable for Lg ___, negative nitrite, 49 WBC, few 
bacteria. Chem notable for sodium of 132, K 3.9, Cr 0.8.  
Radiology: CXR with hyperinflation with no appreciated 
cardiomegaly, pleural effusions, consolidations, or pulmonary 
edema.  
Interventions: The patient was given 10mg IV diltiazem. The 
patient was also give 25mg PO metoprolol and IV ciprofloxacin 
for treamtent of a possible UTI.  
On arrival to the floor, the patient states that she feels 
pretty good.  

 
Past Medical History:
Anemia  
Anxiety/Depression  
Cataracts  
COPD  
Hip fracture s/p repair  
Hyperlipidemia  
Hypothyroidism  
Hypertension  
s/p removal of left parotid gland  
Osteoarthritis  
Osteoporosis  
Peripheral vascular disease  
Colon cancer in ___  
Urinary incontinence  
History of left adnexal cystic lesion on pelvic MRI ___ 
unchanged from prior.  

 
Social History:
___
Family History:
Mother died of MI at age ___. Father with stroke, cancer at age 
___. Daughter w/ PE in ___ she also has a history of DVT after 
car accident in ___. 
 
Physical Exam:
ADMISSION EXAM:
VS: T 97.5 BP 103/52 HR 96 RR 20 O2 Sat 95% on RA Weight 50kg  
General: NAD, comfortable, pleasant  
HEENT: NCAT, PERRL, EOMI. MMM.  
Neck: supple, no JVD  
CV: irregularly irregular rhythm, with no appreciated m/r/g  
Lungs: Decrease breathsounds bilaterally but CTAB, no 
appreciated w/r/r  
Abdomen: soft, NT/ND, BS+, colostomy with air in bag in the LLQ. 
 
Ext: WWP, no c/c/e, 2+ distal pulses bilaterally  
Neuro: Moving all extremities. CN ___ intact bilaterally. ___ 
biceps and triceps strength. ___ plantar and dorsiflexion at the 
ankles bilaterally.  

DISCHARGE EXAM:
Physical exam:
Vitals: 97.7 94-126/48-64 62-70 20 96%RA
Weight 47.7kg ___, ? ___, 45.7kg ___
I&Os: ?/? today, 560/740+ 
Gen: Awake in NAD
HEENT: NCAT. Pupils equal and round. Dentures not in place.  
Neck: Mildly distended EJV, no appreciated JVD
CV: Regular rhythm w/ ___ systolic murmur appreciated at the 
cardiac apex most prominently and then through the precordium 
including the axilla. 
Pulm: Crackles at the bases bialterally. Nml work of breathing. 
Abd: Soft. NT. Colostomy in LLQ. Suprapubic tenderness present.
Ext: No edema. Bruising of the UE bilaterally. 
 
Pertinent Results:
ADMISSION LABS:

___ 12:05PM BLOOD WBC-5.2 RBC-4.20 Hgb-11.3* Hct-36.8 
MCV-88 MCH-27.0 MCHC-30.8* RDW-13.6 Plt ___
___ 12:05PM BLOOD Neuts-62.7 ___ Monos-5.5 Eos-2.5 
Baso-0.5
___ 12:05PM BLOOD ___ PTT-31.9 ___
___ 12:05PM BLOOD Glucose-86 UreaN-18 Creat-0.8 Na-132* 
K-3.8 Cl-99 HCO3-26 AnGap-11
___ 12:30PM URINE Color-Straw Appear-Clear Sp ___
___ 12:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 12:30PM URINE RBC-2 WBC-49* Bacteri-FEW Yeast-NONE 
Epi-1
___ 12:30PM URINE CastHy-3*

DISCHARGE LABS:
___ 07:05AM BLOOD WBC-6.3 RBC-3.74* Hgb-10.1* Hct-32.5* 
MCV-87 MCH-27.1 MCHC-31.2 RDW-13.8 Plt ___
___ 07:05AM BLOOD Glucose-94 UreaN-47* Creat-1.0 Na-139 
K-4.1 Cl-97 HCO3-33* AnGap-13
___ 07:05AM BLOOD Calcium-9.0 Phos-4.1 Mg-2.3

TTE:
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
are moderately thickened. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. An 
eccentric, posteriorly-directed jet of moderate to severe (3+) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. Moderate [2+] tricuspid regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion. 

IMPRESSION: Normal global and regional biventricular systolic 
function. Moderate to severe mitral regurgitation. Moderate 
tricuspid regurgitation. Mild pulmonary hypertension.  

INDICATIONS FOR CONSULT:  
Difficult crossmatch and/or evaluation of irregular antibody (s) 

  
CLINICAL/LAB DATA: Ms. ___ is a ___ year old female who was 
admitted 
for new onset atrial fibrillation and tachycardia. Of note. the 
patient 
had a history of anti-K and anti-E antibodies that were 
identified at 
___ in ___. A blood sample was sent for type and 
screen. 
  
Laboratory data: 
Patient ABO/Rh: Group A, Rh positive 
Antibody screen: Positive 
Antibody identity: Anti-E and Anti-K antibodies 
Patient antigen phenotype: ___ and K-antigen negative 
  
Transfusion History: 
No previous transfusions at ___ or ___. 
___ previously identified an anti-E and anti-K in 
___. 
  
DIAGNOSIS, ASSESSMENT AND RECOMMENDATIONS:  
Ms. ___ has a confirmed diagnosis of anti-E and anti-K 
antibodies, 
previously identified at ___ in ___. 
  
___ is a member of the ___ blood group system. K-antigen is 
a 
member of the ___ blood group system. Both anti-E and anti-K 
antibodies 
are clinically significant and capable of causing hemolytic 
transfusions 
reactions. 
  
Ms. ___ should receive ___ and K-antigen negative 
products for 
all red cell transfusions. Approximately 63% of ABO-compatible 
blood 
will be ___ and K-antigen negative. 

MICROBIOLOGY:
___ 4:55 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      STAPH AUREUS COAG +.    >100,000 ORGANISMS/ML.. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 


                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
NITROFURANTOIN--------  <=16 S
OXACILLIN-------------   =>4 R
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

Blood culture pending times 2 at the time of discharge.

URINE CULTURE (Final ___:    <10,000 organisms/ml.

IMAGING: 
CXR ___ 11:30pm:  COPD.  Lateral right basilar scarring 
without definite focal consolidation.  No overt pulmonary edema. 
 

CXR ___: Pulmonary edema. An underlying infectious 
infiltrate cannot be excluded.

CXR ___ 2:25AM: Worsened appearance of the lungs with 
increased bilateral infiltrates

CXR ___: There has been improvement of the pulmonary 
interstitial edema since the previous study.  There remains 
bilateral pleural effusions, right greater than left.  There is 
persistent left retrocardiac opacity.  Calcification of the 
thoracic aorta is seen.  There are no pneumothoraces.  Heart 
size is within normal limits. 

 
Brief Hospital Course:
Ms. ___ is a ___ F w/ PMHx of HTN, HLD, PVD, COPD, history 
of rectal cancer, and anemia who presented from cardiology 
clinic with symptoms of dizziness in setting of new onset atrial 
fibrillation found to have over-repletion of thyroid hormone, 
hospital course complicated by acute pulmonary edema.  

# Acute Pulmonary Edema: Early on the morning of ___, the 
patient woke up acutely short of breath and hypertensive to 
systolics of 200. A chest x-ray showed worsened pulmonary edema 
in RLL. She was treated with 40mg IV Lasix and a nitroglycerin 
drip. She required BiPAP and was transferred to the CCU where 
she was treated with 3 additional doses of 40mg IV lasix over 
the course of 2 days. She only required BiPAP for 6 hours, and 
was then weaned to nasal cannula oxygen supplementation. 
Nitroglycerin drip was weaned off and home dose amlodipine was 
restarted. Review of the TTE showed 3+ MR ___ etiology thought 
to be possible flail mitral valve leaflet) as the presumed 
cauase for the patient's acute pulmonary edema. The patient 
continued to received IV furosemide on the floor with 
improvement in oxygen requirement with the patient on RA on the 
day of discharge. The patient was transitioned to PO torsemide 
___. The patient was started on losartan for after load 
reduction as well as metoprolol. Weight on day of discharge: 
47.7kg.

# Atrial fibrillation: CHADS-2 score of 2; patient has never had 
a stroke or TIA in the past. Patient was rate controlled on 
metoprolol XL 100mg and converted to sinus rhythm on the morning 
of ___. Thyroid function testing revealed over repletion which 
may have been the etiology for new afib. Levothyroxine dose was 
decreased to 112mcg daily (from 135mcg). TFTs should be repeated 
in 6 weeks for discharge from ___ on this new dose. 
Anticoagulation was discussed with the patient's outpatient 
providers (Cardiology and Primary care physician); given the 
patient's history of falls, the decision was made to use full 
strength aspirin for anticoagulation.  Patient's metoprolol was 
decreased to 50mg metoprolol XL in light of development of acute 
pulmonary edema. 

# Pyuria: Early during admission, patient had UA suggestive of 
UTI with 49 WBC and few bacteria. Urine culture with less than 
10,000 organisms. Patient received 3 days of ciprofloxacin.  

# MRSA cystitis: Patient had Foley catheter placed during 
admission while being digressed. The patient's UA was suggestive 
of UTI but patient without white count when debris noted in the 
Foley catheter. Foley was discontinued. Urine culture showed 
MRSA, and patient complained of symptoms of dysuria. 
Sensitivities showed that MRSA was sensitive to Bactrim DS BID; 
patient was started on Bactrim ___. Blood cultures 
pending; repeat urine culture at time of discharge pending. Plan 
for 7 day course of Bactrim DS BID with day one being ___.

# PVD: ASA 325mg PO daily. The patient was started on 
pravastatin, which she should continue as an outpatient.
 
# HTN: The patient's home amlodipine was discontinued during 
this admission, while metoprolol was started and adjusted. With 
the development of acute pulmonary edema (see discussion above), 
metoprolol was decreased and ___ (losartan) was started for 
afterload reduction. ___ as opposed to ACEi was started given 
the patient's underlying cough.
 
# Hypothyroidism: TSH 0.091, FT4 2.1, consistent with 
over-repletion. Decreased levothyroxine from 135mcg daily to 
112mcg daily. Recheck TFTs in 6 weeks from discharge from acute 
hosptialization and adjust dose appropriately.
 
# Anemia: CBC stable through admission. Continued home iron 
supplementation. Patient due for B12 injection per daughter 
which she received during this admission. 

# COPD: Continued home tiotropium, Symbicort and albuterol.

# Thoracic spine area skin breakdown: Patient with Mepilex 
placed. Trending exam. Encourage ambulation. 

# CODE STATUS: FULL CODE. There had been discussion with patient 
regarding her code status. She had expressed desire to be 
DNR/DNI though patient's daughter had much difficulty accepting 
this code status. On-going discussions regarding code status 
will need to be carried out upon discharge from hospital.

TRANSITIONAL ISSUES:
-Monitor weight daily, if weight increases by 3 pounds, then 
increase dose of torsemide to 40mg PO daily. 
-Serum ___ to evaluate serum creatinine and serum lytes. 
Forward to ___ MD for review. 
-Recheck thyroid function tests in 6 weeks.
-Follow-up pending urine and blood cultures.
-Continue bactrim DS BID for total 7 day course; day ___ 
-On-going discussion regarding patient's code status. 

**Length of stay expected to be less than 30 days.**
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Alendronate Sodium 70 mg PO Frequency is Unknown 
2. Amlodipine 10 mg PO DAILY 
3. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
4. Cyanocobalamin 1000 mcg IM/SC QMONTH 
5. Donepezil 10 mg PO DAILY 
6. Levothyroxine Sodium 137 mcg PO DAILY 
7. Tiotropium Bromide 1 CAP IH DAILY 
8. Tolterodine 1 mg PO BID 
9. TraZODone 50 mg PO HS 
10. Detrol LA (tolterodine) 4 mg oral daily  
11. Aspirin 81 mg PO DAILY 
12. Calcium Carbonate 500 mg PO BID 
13. Vitamin D 1000 UNIT PO DAILY 
14. Docusate Sodium 100 mg PO BID 
15. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO BID 
2. Cyanocobalamin 1000 mcg IM/SC QMONTH 
3. Docusate Sodium 100 mg PO BID 
4. Donepezil 10 mg PO DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Tolterodine 1 mg PO BID 
8. TraZODone 50 mg PO HS 
9. Vitamin D 1000 UNIT PO DAILY 
10. Pravastatin 40 mg PO DAILY 
11. Alendronate Sodium 70 mg PO QWEEK 
12. Detrol LA (tolterodine) 4 mg oral daily  
13. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
INHALATION BID 
14. Aspirin 325 mg PO DAILY 
15. Losartan Potassium 25 mg PO DAILY 
16. Torsemide 20 mg PO DAILY 
17. Metoprolol Succinate XL 50 mg PO DAILY 
18. Sulfameth/Trimethoprim DS 1 TAB PO BID 
day ___ 7 day course of antibiotics.  
19. Outpatient Lab Work
Please check chem 10 ___ and have results forwards 
to MD on premisses for ___

20. Levothyroxine Sodium 112 mcg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSIS:
Atrial fibrillation 
Acute pulmonary edema secondary to flail mitral valve leaflet 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure caring for you during your hosptalization at 
___. 

You were hospitalized because you were found to have an 
irregular rhythm of the heart known as atrial fibrillation. We 
have started you on medications to help control your heart rate. 
We discussed starting anticoagulation with your primary care 
doctor and cardiologist and the decision was made for you to 
take full dose aspirin daily. The good news is that during your 
hospitalization your heart rate converted to normal rhythm. You 
will continue to take aspirin to reduce your stroke risk. 

During this admission, you were found to have a urinary tract 
infection. You were started on antibiotics to treat the 
infection. You will complete a 7 day course of antibiotics.  

Please see your discharge paperwork regarding medication 
changes. 

Weight on discharge: 47.7kg.

We wish you the best going forward. 
 
Followup Instructions:
___